US07947693B2
c) 7-Chloro-5-{[(1S)-1-phenylethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-2-amine
POCl3 (1 mL) was added to DMF (1 mL) in dioxane (6 mL). 2-Amino-5-{[(1S)-1-phenylethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-ol (1 g, 3.3 mmol) was added to the reaction in one portion. POCl3 (1 mL) was added and the reaction mixture was heated to 80° C. for about 30 min. The reaction was cooled to room temperature and poured onto ice. The resulting mixture was heated at reflux for about 5 h. The mixture was allowed to attain room temperature and was then extracted with EtOAc. The organic layer was passed through a layer of silica gel and concentrated to dryness to give the title compound (1 g, 95% yield).

reactant | POCl3 | 1 mL | O=P(Cl)(Cl)Cl | Cl3OP
reactant | DMF | 1 mL | CN(C)C=O | C3H7NO
reactant | 2-Amino-5-{[(1S)-1-phenylethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-7-ol | 3.3 mmol, 1 g | NC=1SC2=C(N=C(N=C2O)S[C@@H](C)C2=CC=CC=C2)N1 | C13H12N4OS2
reactant | POCl3 | 1 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | 7-Chloro-5-{[(1S)-1-phenylethyl]thio}[1,3]thiazolo[4,5-d]pyrimidin-2-amine | 1 g, 95% yield | ClC=1C2=C(N=C(N1)S[C@@H](C)C1=CC=CC=C1)N=C(S2)N | C13H11ClN4S2
